US06590105B2
4-(2,4-Dihydroxyphenyl)cyclohexanone
A flask equipped with magnetic stirrer was charged with 4-(1,4-dioxaspiro[4.5]dec-8-yl)-1,3-benzenediol (11.3 g, 45.2 mmol), acetone (250 ml) and water (50 ml). To the stirred solution was added pyridinium p-toluenesulfonate (1.14 g, 4.52 mmol) in one portion and the reaction mixture was then heated under reflux for 8 hr. After allowing the reaction mixture to cool to room temperature, most of the acetone was removed in vacuo and the remaining mixture was partitioned between ethyl acetate (200 ml) and water (50 ml). The aqueous layer was extracted with ethyl acetate (3×50 ml) and the combined organic layers were washed with brine (30 ml), dried (MgSO4), filtered and concentrated under reduced pressure to afford an off-white powder. After washing the powder with dichloromethane (100 ml) and removal of excess solvent under reduced pressure, the title compound (9.30 g, 100%) was obtained as an off-white powder. m/z (ES+) 207 (M+H+).

reactant | 4-(1,4-dioxaspiro[4.5]dec-8-yl)-1,3-benzenediol | 45.2 mmol, 11.3 g | O1CCOC12CCC(CC2)C2=C(C=C(C=C2)O)O | C14H18O4
reactant | water | 50 ml | O | H2O
reactant | pyridinium p-toluenesulfonate | 4.52 mmol, 1.14 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | CC(=O)C | C3H6O
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4-(2,4-Dihydroxyphenyl)cyclohexanone | 9.30 g, 100% | OC1=C(C=CC(=C1)O)C1CCC(CC1)=O | C12H14O3
